US04504305
EXAMPLE 4: 2-[1-(3-chloroallyloxyimino)propyl]-3-hydroxy-5-(4-methanesulfonamidophenyl)-2-cyclohexen-1-one
Into 40 ml of mixture solvent of ethanol-chloroform (1:1) was dissolved 2 g of 3-hydroxy-5-(4-methanesulfonamidophenyl)-2-propionyl-2-cyclohexen-1-one and to the solution was added 10 ml of ethanol containing 10% of 3-chloroallyloxyamine at room temperature. The mixture was kept for 3 hours and it was poured into ice water. The mixture was acidified with hydrochloric acid and the oil separated was extracted with chloroform. The chloroform solution was dried with anhydrous magnesium sulfate and the chloroform was removed from it under reduced pressure and 1.5 g of the desired crude compound was obtained. It was purified by column chromatography and trans-cis mixture which was pale pink crystal having a melting point of 125°-127° C. was obtained.

reactant | ethanol chloroform | C(C)O.C(Cl)(Cl)Cl
reactant | 3-hydroxy-5-(4-methanesulfonamidophenyl)-2-propionyl-2-cyclohexen-1-one | 2 g | OC1=C(C(CC(C1)C1=CC=C(C=C1)NS(=O)(=O)C)=O)C(CC)=O | C16H19NO5S
reactant | 3-chloroallyloxyamine | ClC=CCON | C3H6ClNO
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-[1-(3-chloroallyloxyimino)propyl]-3-hydroxy-5-(4-methanesulfonamidophenyl)-2-cyclohexen-1-one | 1.5 g | ClC=CCON=C(CC)C=1C(CC(CC1O)C1=CC=C(C=C1)NS(=O)(=O)C)=O | C19H23ClN2O5S
